US07482345B2
1-(5-bromopyridin-2-yl)-1-(2,6-difluorophenyl)-4-(trimethylsilyl)but-3-yn-2-one
To a solution of 5-bromo-2-(2,6-difluorobenzyl)pyridine (5.6 g) in THF was added ethyl 3-(trimethylsily)propynoate (4.2 mL) and LHMD (42 mL, 1N in THF) at −78° C. The mixture was warmed to 0° C. and stirred in additional 2 h. The reaction was complete by TLC and quenched with NH4Cl, extracted with ethyl acetate. The organic layer was washed with water, brine, dried over MgSO4 and condensed in vacuo. The crude compound was purified by silica gel (hexanes/methylene chloride) to give the desired product.

reactant | 5-bromo-2-(2,6-difluorobenzyl)pyridine | 5.6 g | BrC=1C=CC(=NC1)CC1=C(C=CC=C1F)F | C12H8BrF2N
reactant | ethyl 3-(trimethylsily)propynoate | 4.2 mL | C[Si](C#CC(=O)OCC)(C)C | C8H14O2Si
solvent | THF | C1CCOC1 | C4H8O
product | 1-(5-bromopyridin-2-yl)-1-(2,6-difluorophenyl)-4-(trimethylsilyl)but-3-yn-2-one | BrC=1C=CC(=NC1)C(C(C#C[Si](C)(C)C)=O)C1=C(C=CC=C1F)F | C18H16BrF2NOSi
